* c:\users\aditya\esim-workspace\9348\9348.cir

.include 9348_PC.sub
v2 net-_x1-pad16_ gnd  dc 5
r1  po gnd 1000k
r2  pe gnd 1000k
x1 i5 i6 i7 i8 i9 i10 i11 gnd po pe i0 i1 i2 i3 i4 net-_x1-pad16_ 9348_PC
* u2  pe plot_v1
* u1  po plot_v1
v1  i5 gnd pulse(0 5 0 1m 1m 6 24)
v3  i6 gnd pulse(0 5 0 1m 1m 7 24)
v4  i7 gnd pulse(0 5 0 1m 1m 8 24)
v5  i8 gnd pulse(0 5 0 1m 1m 9 24)
v6  i9 gnd pulse(0 5 0 1m 1m 10 24)
v7  i10 gnd pulse(0 5 0 1m 1m 11 24)
v8  i11 gnd pulse(0 5 0 1m 1m 12 24)
v9  i0 gnd pulse(0 5 0 1m 1m 1 24)
v10  i1 gnd pulse(0 5 0 1m 1m 2 24)
v11  i2 gnd pulse(0 5 0 1m 1m 3 24)
v12  i3 gnd pulse(0 5 0 1m 1m 4 24)
v13  i4 gnd pulse(0 5 0 1m 1m 5 24)
* u4  i6 plot_v1
* u5  i7 plot_v1
* u6  i8 plot_v1
* u7  i9 plot_v1
* u8  i10 plot_v1
* u9  i11 plot_v1
* u10  i0 plot_v1
* u11  i1 plot_v1
* u12  i2 plot_v1
* u13  i3 plot_v1
* u14  i4 plot_v1
* u3  i5 plot_v1
.tran 0.1e-00 24e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(pe)
plot v(po)
plot v(i6)
plot v(i7)
plot v(i8)
plot v(i9)
plot v(i10)
plot v(i11)
plot v(i0)
plot v(i1)
plot v(i2)
plot v(i3)
plot v(i4)
plot v(i5)
.endc
.end
